US03962441
A mixture of 6-bromomethyl-2-phenylbenzoxazole (40 gm) and sodium cyanide (7.4 gm) in dry dimethylformamide (800 ml) was heated on a steam bath for 3 hr. The mixture was filtered and the filtrate was evaporated to dryness. The solid was recrystallised to give 2-phenyl-6-benzoxazolylacetonitrile as white crystals, m.p. 144°C.

reactant | 6-bromomethyl-2-phenylbenzoxazole | 40 gm | BrCC1=CC2=C(N=C(O2)C2=CC=CC=C2)C=C1 | C14H10BrNO
reactant | sodium cyanide | 7.4 gm | [C-]#N.[Na+]
solvent | dimethylformamide | 800 ml | CN(C=O)C | C3H7NO
product | 2-phenyl-6-benzoxazolylacetonitrile | C1(=CC=CC=C1)C=1OC2=C(N1)C=CC(=C2)CC#N | C15H10N2O
